US07338958B2
1 g of potassium hydroxide is dissolved in 40 ml of methanol and mixed with 2.3 g of 4-nitrothiophenol. The suspension is stirred for one hour at room temperature and mixed drop by drop with 1.48 ml of 1-bromo-3-chloropropane. After 4 hours of stirring at room temperature, another 0.15 ml of 1-bromo-3-chloropropane is added in drops. The mixture is stirred for 65 hours at room temperature, concentrated by evaporation in a vacuum and taken up in ethyl acetate. It is extracted with water and saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. After purification by flash chromatography, 2.54 g of 1-(3-chloro-propylsulfanyl)-4-nitro-benzene is obtained.

reactant | potassium hydroxide | 1 g | [OH-].[K+]
reactant | 4-nitrothiophenol | 2.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | 1-bromo-3-chloropropane | 1.48 ml | BrCCCCl | C3H6BrCl
reactant | 1-bromo-3-chloropropane | 0.15 ml | BrCCCCl | C3H6BrCl
solvent | methanol | 40 ml | CO | CH4O
product | 1-(3-chloro-propylsulfanyl)-4-nitro-benzene | 2.54 g | ClCCCSC1=CC=C(C=C1)[N+](=O)[O-] | C9H10ClNO2S
